US08193207B2
Pd/C (100 mg) was added into a solution of benzyl 2-cyclohexyl-1-oxo-2,8-diazaspiro[4.5]decane-8-carboxylate (1.0 g, 0.0027 mol) in methanol (10 mL) under N2. The reaction mixture was stirred under an atmosphere of hydrogen for 2 hrs. The mixture was filtered. The filtrate was concentrated to give 2-cyclohexyl-2,8-diazaspiro[4.5]decan-1-one which was directly used in next step reaction without further purification.

reactant | benzyl 2-cyclohexyl-1-oxo-2,8-diazaspiro[4.5]decane-8-carboxylate | 0.0027 mol, 1.0 g | C1(CCCCC1)N1C(C2(CC1)CCN(CC2)C(=O)OCC2=CC=CC=C2)=O | C22H30N2O3
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 2-cyclohexyl-2,8-diazaspiro[4.5]decan-1-one | C1(CCCCC1)N1C(C2(CC1)CCNCC2)=O | C14H24N2O
